data/polar.json
{"reaction_name": "Thia-Michael addition", "rsmi": "[C:2](#[N:10])[C:16]([C:3]#[N:11])=[CH:4][c:18]1[cH:7][cH:12][cH:19][cH:13][cH:8]1.[S:1]([c:5]1[cH:20][cH:14][cH:9][cH:15][cH:21]1)([O-:6])=[O:17]>>[S+:1]([CH:4]([C:16](=[C:2]=[N-:10])[C:3]#[N:11])[c:18]1[cH:7][cH:12][cH:19][cH:13][cH:8]1)([c:5]1[cH:20][cH:14][cH:9][cH:15][cH:21]1)([O-:6])=[O:17]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/Pi+", [4, 16], [16, 2]], ["Pi-/LP+", [2, 10], [10]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:7][O:5][C:23]([CH:2]=[C:8]([CH3:26])[N:34]=[N:18][C:3](=[O:19])[NH:22][c:27]1[cH:31][cH:14][cH:28][cH:15][cH:32]1)=[O:20].[c:4]1([S:21](=[O:29])(=[O:30])[CH-:35][c:11]2[cH:9][cH:24][cH:33][cH:25][cH:10]2)[cH:12][cH:16][cH:6][cH:17][cH:13]1>>[CH3:1][CH2:7][O:5][C:23]([CH:2]([C:8]([CH3:26])=[N:34][N:18]=[C:3]([O-:19])[NH:22][c:27]1[cH:31][cH:14][cH:28][cH:15][cH:32]1)[CH:35]([c:11]1[cH:9][cH:24][cH:33][cH:25][cH:10]1)[S:21]([c:4]1[cH:12][cH:16][cH:6][cH:17][cH:13]1)(=[O:29])=[O:30])=[O:20]", "epd": [["LP-/Sigma+", [35], [35, 2]], ["Pi-/Pi+", [2, 8], [8, 34]], ["Pi-/Pi+", [34, 18], [18, 3]], ["Pi-/LP+", [3, 19], [19]]]}
{"reaction_name": "Benzylidene acetal rearrangement", "rsmi": "[O:1]([H:8])[CH3:13].[O:2]([H:9])[CH3:14].[c:3]1([CH:12]=[O:7])[c:6][cH:10][cH:5][cH:4][cH:11]1>>[O:1]([CH:12]([O:2][CH3:14])[c:3]1[c:6][cH:10][cH:5][cH:4][cH:11]1)[CH3:13].[O:7]([H:8])[H:9]", "epd": [["LP-/Sigma+", [1], [1, 12]], ["Sigma-/LP+", [7, 12], [7]], ["LP-/Sigma+", [7], [7, 8]], ["Sigma-/LP+", [1, 8], [1]], ["LP-/Sigma+", [2], [2, 12]], ["Pi-/LP+", [7, 12], [7]], ["LP-/Sigma+", [7], [7, 9]], ["Sigma-/LP+", [2, 9], [2]]]}
{"reaction_name": "Isoquinoline-forming cyclodehydration", "rsmi": "[CH:1]([N:7]([H:12])[H:13])=[CH:11][c:10]1[c:5]([CH:8]=[O:6])[cH:2][cH:3][cH:4][cH:9]1>>[O:6]([H:12])[H:13].[cH:1]1[n:7][cH:8][c:5]2[cH:2][cH:3][cH:4][cH:9][c:10]2[cH:11]1", "epd": [["LP-/Pi+", [7], [1, 7]], ["Pi-/LP+", [1, 11], [11]], ["LP-/Pi+", [11], [10, 11]], ["Pi-/LP+", [5, 10], [5]], ["LP-/Pi+", [5], [5, 8]], ["Sigma-/LP+", [6, 8], [6]], ["LP-/Sigma+", [6], [6, 12]], ["Sigma-/LP+", [7, 12], [7]], ["LP-/Sigma+", [7], [7, 8]], ["Pi-/LP+", [6, 8], [6]], ["LP-/Sigma+", [6], [6, 13]], ["Sigma-/LP+", [7, 13], [7]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:1]([S:6][C:24]([F:14])([F:15])[F:16])[C:12]([CH3:21])([CH3:22])[c:30]1[cH:2][cH:19][cH:13][cH:20][cH:3]1.[c:4]1([S:23](=[O:27])(=[O:28])[CH-:31][c:9]2[cH:7][cH:25][cH:29][cH:26][cH:8]2)[cH:10][cH:17][cH:5][cH:18][cH:11]1>>[O-:1][C:12]([CH3:21])([CH3:22])[c:30]1[cH:2][cH:19][cH:13][cH:20][cH:3]1.[c:4]1([S:23](=[O:27])(=[O:28])[CH:31]([S:6][C:24]([F:14])([F:15])[F:16])[c:9]2[cH:7][cH:25][cH:29][cH:26][cH:8]2)[cH:10][cH:17][cH:5][cH:18][cH:11]1", "epd": [["LP-/Sigma+", [31], [31, 6]], ["Sigma-/LP+", [6, 1], [1]]]}
{"reaction_name": "Reimer–Tiemann carbene generation", "rsmi": "[C:1]([Cl:8])([Cl:9])([Cl:10])[H:12].[c:2]1([O-:5])[cH:6][cH:3][cH:11][cH:4][cH:7]1>>[C:1]([Cl:8])[Cl:9].[Cl-:10].[c:2]1([O:5][H:12])[cH:6][cH:3][cH:11][cH:4][cH:7]1", "epd": [["Sigma-/LP+", [1, 10], [10]], ["Sigma-/LP+", [1, 12], [1]], ["LP-/Sigma+", [5], [5, 12]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][C:12]([CH3:2])=[N+:17]([O-:18])[O-:19].[O:3]=[C:23]1[N:7]([CH3:20])[C:22](=[O:9])[N:8]([CH3:21])[C:24](=[O:4])[C:14]1=[CH:16][c:10]1[cH:25][cH:5][c:15]([O:13][CH3:11])[cH:6][cH:26]1>>[CH3:1][C:12]([CH3:2])([CH:16]([c:10]1[cH:25][cH:5][c:15]([O:13][CH3:11])[cH:6][cH:26]1)[c:14]1[c:23]([O-:3])[n:7]([CH3:20])[c:22](=[O:9])[n:8]([CH3:21])[c:24]1=[O:4])[N+:17](=[O:18])[O-:19]", "epd": [["LP-/Pi+", [18], [17, 18]], ["Pi-/Sigma+", [12, 17], [12, 16]], ["Pi-/Pi+", [16, 14], [14, 23]], ["Pi-/LP+", [23, 3], [3]]]}
{"reaction_name": "Reductive C–O cleavage of a thiocarbonyl-activated alcohol", "rsmi": "[H+:3].[H-:8].[S:1]([C:6]([O:2][CH2:4][CH3:7])=[S:5])[CH3:9]>>[CH2:4]([CH3:7])[H:8].[S:1]([C:6]([O:2][H:3])=[S:5])[CH3:9]", "epd": [["LP-/Sigma+", [8], [4, 8]], ["Sigma-/LP+", [2, 4], [2]], ["LP-/Sigma+", [2], [2, 3]]]}
{"reaction_name": "Thioacetal protection", "rsmi": "[H+:1].[H:4][S:6][CH3:9].[H:5][S:7][CH3:10].[O:2]=[CH:8][CH3:3]>>[CH3:3][CH:8]([S:6][CH3:9])[S:7][CH3:10].[H+:5].[H:1][O:2][H:4]", "epd": [["LP-/Sigma+", [6], [6, 8]], ["Pi-/LP+", [2, 8], [2]], ["LP-/Sigma+", [2], [1, 2]], ["Sigma-/LP+", [2, 8], [2]], ["LP-/Sigma+", [2], [2, 4]], ["Sigma-/LP+", [4, 6], [6]], ["LP-/Sigma+", [7], [7, 8]], ["Sigma-/LP+", [5, 7], [7]]]}
